US09056859B2
1,1-Dimethylethyl-4-[2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate (245 mg) was treated with 4N HCl in dioxane solution and the reaction was monitored until completion. The mixture was concentrated to afford 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride. The hydrochloride can be converted to free base as needed by partitioning between organic solvent (EtOAc, DCM, or 30% IPA/CHCl3) and saturated Na2CO3 solution.

reactant | 1,1-Dimethylethyl-4-[2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | 245 mg | CC(C)(C)C1N(CCN(C1)CCC1=C(C2=C(C(OC2)=O)C=C1)C)C(=O)[O-]
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-methyl-5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.CC1=C(C=CC=2C(OCC21)=O)CCN2CCNCC2 | InChI=1S/C15H20N2O2.ClH/c1-11-12(4-7-17-8-5-16-6-9-17)2-3-13-14(11)10-19-15(13)18;/h2-3,16H,4-10H2,1H3;1H
